US04812477
N-acetyl-S-[(2R)-2-(4-isobutylphenyl)-propionyl]-(R)-cysteine (Compound No. 3)
By operating in a way similar to that described in the Example 2, and starting from N-acetyl-(R)-cysteine (39.5 g) and (2R)-2-(4-isobutyl-phenyl)-propionyl chloride (45.4 g) the desired product is obtained (18 g) as a solid melting at 102°-104° C.; [α]D20 =-79.6° (c=1%, EtOH).

reactant | N-acetyl-(R)-cysteine | 39.5 g | C(C)(=O)N[C@@H](CS)C(=O)O | C5H9NO3S
reactant | (2R)-2-(4-isobutyl-phenyl)-propionyl chloride | 45.4 g | C(C(C)C)C1=CC=C(C=C1)[C@H](C(=O)Cl)C | C13H17ClO
product | N-acetyl-S-[(2R)-2-(4-isobutylphenyl)-propionyl]-(R)-cysteine | C(C)(=O)N[C@@H](CSC([C@H](C)C1=CC=C(C=C1)CC(C)C)=O)C(=O)O | C18H25NO4S
